US06111047
3.5 g of boric acid was heated in 150 ml of ethylene glycol at 150° C. for 30 minutes, in a 500 cc flask equipped with a reflux condenser. 25 g of hexamethylenetetramine and 21 g of 2,6-bis(1,1-dimethylethyl)phenol were then added and the solution maintained at 148-150° C. for 15 minutes. After cooling to 125° C. at which stage the first crystals appeared, 150 ml of H2SO4 (30%0 was added and stirring was continued for another 30 minutes. The resulting slurry was filtered and washed with warm water. After drying, 22 g of 3,5-bis(1,1-dimethylethyl)benzaldehyde was obtained.

reactant | boric acid | 3.5 g | B(O)(O)O | BH3O3
reactant | hexamethylenetetramine | 25 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2,6-bis(1,1-dimethylethyl)phenol | 21 g | CC(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
reactant | ethylene glycol | 150 ml | C(CO)O | C2H6O2
product | 3,5-bis(1,1-dimethylethyl)benzaldehyde | 22 g | CC(C)(C)C=1C=C(C=O)C=C(C1)C(C)(C)C | C15H22O
